US06933387B2
a) 7-Bromo-5-fluoro-1H-indole-2-carboxylic acid ethyl ester
2-Bromo-4-fluoro-phenylhydrazine (20 g, 0.097 mol) was dissolved in ethanol and the solution cooled to 0° C. (ice-bath). Ethyl pyruvate (11.3 ml, 0.101 mol) was added dropwise and the solution stirred 15 h at room temperature. The solvent was evaporated under reduced pressure, and the residue stirred with hexane. The mixture of hydrazones that formed upon cooling in an ice-bath was filtered and dried under vacuum. Yield 24.4 g, 82%. The hydrazone mixture (22 g, 0.073 mol) was dissolved in Eaton's reagent (230 ml) and the mixture heated 3 h at 50° C. The mixture was cooled to room temperature, diluted with dichloromethane and added to saturated aqueous sodium hydrogen carbonate. The phases were separated and the aqueous phase extracted twice with dichloromethane. The combined organic phases were washed with water, dried over magnesium sulfate and evaporated. The residue was taken up in diethyl ether, and hexane added whereupon part of the product precipitated. This was filtered and the mother liquor purified by column chromatography on silica gel (5:1 toluene/hexane eluant) to afford the product as a light yellow solid (14.1 g, 68%). Mp: 125° C., EI MS: 285.0 (M+)

reactant | 2-Bromo-4-fluoro-phenylhydrazine | 0.097 mol, 20 g | BrC1=C(C=CC(=C1)F)NN | C6H6BrFN2
reactant | Ethyl pyruvate | 0.101 mol, 11.3 ml | C(C(=O)C)(=O)OCC | C5H8O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | Eaton's reagent | 230 ml | CS(=O)(=O)O.O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 7-Bromo-5-fluoro-1H-indole-2-carboxylic acid ethyl ester | 14.1 g, 68% | C(C)OC(=O)C=1NC2=C(C=C(C=C2C1)F)Br | C11H9BrFNO2
